US07534788B2
Step 1: (2,4-Dihydroxy-phenyl)-phenyl-methanone
Resorcinol (1.10 g, 10.0 mmol) and benzoic acid (1.22 g, 1.01 eq.) were treated with BF3-etherate (7.55 mL, 6 eq.) and heated for 2 h to 95° C. After cooling the reaction mixture was carefully poured onto 500 mL of 10% aq. NaOAc solution, twofold extracted with AcOEt, washed with water, dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, heptane/AcOEt=8/2), followed by direct crystallization after reducing the volume, afforded 0.994 g of the title compound as off-white crystals.

reactant | Resorcinol | 10.0 mmol, 1.10 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | benzoic acid | 1.22 g, 1.01 eq. | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | BF3 | B(F)(F)F | BF3
solvent | NaOAc | 500 mL | CC(=O)[O-].[Na+]
product | (2,4-Dihydroxy-phenyl)-phenyl-methanone | 0.994 g | OC1=C(C=CC(=C1)O)C(=O)C1=CC=CC=C1 | C13H10O3
